US07071201B2
Example 14: Synthesis of 1-{1-[2-(4-fluorophenyl)propyl]piperidin-4-yl}indoline
1-(4-Piperazinyl)indoline (0.20 g) was dissolved in dimethylformamide (3 ml) and 4-(2-bromo-1-methylethyl)fluorobenzene (10.0 g) and triethylamine (0.14 ml) were added to the resultant solution followed by stirring at 60° C. overnight. After adding water, the liquid reaction mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate. After evaporating the solvent, the resulting residue was purified by NH-silica gel column chromatography (methanol/methylene chloride system) to give the title compound (178 mg) as an oil.

reactant | 1-(4-Piperazinyl)indoline | 0.20 g | N1CCN(CC1)N1CCC2=CC=CC=C12 | C12H17N3
reactant | 4-(2-bromo-1-methylethyl)fluorobenzene | 10.0 g | BrCC(C)C1=CC=C(C=C1)F | C9H10BrF
reactant | triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
reactant | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 1-{1-[2-(4-fluorophenyl)propyl]piperidin-4-yl}indoline | 178 mg | FC1=CC=C(C=C1)C(CN1CCC(CC1)N1CCC2=CC=CC=C12)C | C22H27FN2
